US05538988
A mixture of (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (295 mg, 1 mmol), prepared as in Example 31, picolinic acid (123 mg, 1 mmol) and PyBOP (620 mg, 1.2 mmol) in 10 mL of dry DMF was stirred under argon at approximately 25° C. for 5 minutes and then N,N-diisopropylethylamine (0.58 mL, 3.3 mmol) was added. The mixture was stirred for approximately 12 hours and then 10 mL of water was added. The aqueous layer was extracted with ethyl acetate (3×10 mL) and the combined extracts were washed with water, dried (MgSO4) and concentrated. The residue was purified by flash chromatography on silica gel eluting with hexane/THF (1:1 to 8:2) to give (S)-N-[3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-4-ylmethyl]picolinamide (80 mg, 0.2 mmol), m.p. 216°-217° C.

reactant | (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 1 mmol, 295 mg | NCC1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | C14H15F2N3S
reactant | picolinic acid | 1 mmol, 123 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | PyBOP | 1.2 mmol, 620 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.3 mmol, 0.58 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | (S)-N-[3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-4-ylmethyl]picolinamide | 0.2 mmol, 80 mg | FC1=C2CC[C@@H](CC2=CC(=C1)F)N1C(NC=C1CNC(C1=NC=CC=C1)=O)=S | C20H18F2N4OS
